US09238640B2
To a solution of [3-(tetrahydro-pyran-2-yloxymethyl)-1H-indazol-5-yl]-methanol (0.40 g, 1.50 mmol) in DMSO (3 mL), IBX (0.42 g, 1.50 mmol) was added and the reaction mixture was stirred at room temperature for 3 hours under nitrogen. Water (50 mL) was added; the separated solid was filtered, and the solid was washed with ethyl acetate (100 mL). The filtrate was collected and the organic phase was separated, washed with brine (100 mL), and dried over anhydrous Na2SO4. Removal of solvent gave 3-(tetrahydro-pyran-2-yloxymethyl)-1H-indazole-5-carbaldehyde as an off-white solid. Yield: 0.33 g (84%).

reactant | [3-(tetrahydro-pyran-2-yloxymethyl)-1H-indazol-5-yl]-methanol | 1.50 mmol, 0.40 g | O1C(CCCC1)OCC1=NNC2=CC=C(C=C12)CO | C14H18N2O3
reactant | Water | 50 mL | O | H2O
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
product | 3-(tetrahydro-pyran-2-yloxymethyl)-1H-indazole-5-carbaldehyde | O1C(CCCC1)OCC1=NNC2=CC=C(C=C12)C=O | C14H16N2O3
